US05401774
To a solution of 0.358 g. (1.0 mole) of 5,6-difluoro-2-methyl-1-(ρ-methylthiobenzylidene)-indene-3-acetic acid in acetone (10 ml.) is added 10-15 ml. MeOH. With magnetic stirring, 0.32 g. (1.5 mole) of sodium meta periodate is added in 5 ml. of water. The proportions of acetone, methanol and water are adjusted if necessary to preserve homogeneity. After several minutes, a precipitation of sodium iodate appears. The suspension is stirred at room temperature for 16 hours, and then poured into approximately 50 ml. of water and 100 ml. methylene chloride. The two phases are separated and the water layer is extracted twice with methylene chloride. The organic phases are washed with water and dried (MgSO4). The residue after evaporation is dissolved in the minimum amount of boiling ethyl acetate and allowed to stand for 12 hours in the freezer compartment. The deep orange crystals are filtered. The filtrate is reduced to 1/2 volume and allowed to stand in the cold for several hours to give a large second crop. In this way, 5,6-difluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenylacetic acid is isolated, M.P. 200-210° which is converted to 5,6-difluoro-2-methyl-1-(p-methylsulfonylbensylidene)-3-indenylacetic acid with the procedure of Example 1. (R1 =hydrogen; R2 =CH3 ; R3 =5-fluoro; R4 =6-fluoro; R5 =CH3 -SO2).

reactant | 5,6-difluoro-2-methyl-1-(ρ-methylthiobenzylidene)-indene-3-acetic acid | 1.0 mole | FC=1C=C2C(=C(C(C2=CC1F)=CC1=CC=C(C=C1)SC)C)CC(=O)O | C20H16F2O2S
reactant | MeOH | CO | CH4O
reactant | sodium meta periodate | 1.5 mole | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5,6-difluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenylacetic acid | FC=1C=C2C(=C(C(C2=CC1F)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C20H16F2O3S
